US06407235B1
A solution of 1.20 g, (1.73 mmol) phosphoric acid dibenzyl ester (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester in 40 ml MeOH and 6 ml water was hydrogenated at room temperature (20 bar, 5 h). The reaction mixture was concentrated to 20 ml and 500 ml water were added. The reaction mixture was filtered and the catalyst was washed with water. The filtrate was concentrated under reduced pressure until the product precipitates. The mixture was then cooled to 0° C. and 200 ml MeOH were added dropwise. After two hours the solid was filtered, washed with cold MeOH and dried at 60° C. under high vacuum to give 380 mg (0.83 mmol, 48%) of phosphoric acid mono-{(3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl} ester as colorless crystalls.

reactant | phosphoric acid dibenzyl ester (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 1.73 mmol | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)O | C34H38NO7PS
solvent | MeOH | 40 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | phosphoric acid mono-{(3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl} ester | 0.83 mmol, 380 mg, 48% | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OP(O)(O)=O)O | C20H26NO7PS
